US09024027B2
To a solution of methyl 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetate (620 mg, 2.196 mmol) in a 1:1 mixture of H2O and THF (10 ml), lithium hydroxide (526 mg, 21.96 mmol) was added, and the mixture was reacted for 1 hour at room temperature. The organic solvent was evaporated and 1N HCl was added to the aqueous residue (pH=2); the aqueous phase was extracted with ethyl acetate (3×20 ml), and the combined organic layers were dried over sodium sulfate. The crude was purified by flash chromatography on silica gel column (DCM:MeOH=95:5) affording 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetic acid (530 mg, 1.975 mmol, 90% yield). MS/ESI+ 269.1 [MH]+.

reactant | methyl 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetate | 2.196 mmol, 620 mg | CS(=O)(=O)NC1=C2C=CN(C2=CC=C1)CC(=O)OC | C12H14N2O4S
reactant | H2O | O | H2O
reactant | lithium hydroxide | 21.96 mmol, 526 mg | [OH-].[Li+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetic acid | 1.975 mmol, 530 mg, 90% yield | CS(=O)(=O)NC1=C2C=CN(C2=CC=C1)CC(=O)O | C11H12N2O4S
